Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Tetanus Vaccines and Toxoid / Influenza Virus 
Vaccines
 
Attending: ___
 
Chief Complaint:
dysarthria,
dysphagia, and gait disturbance.

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ left-handed woman with history
notable for recent cerebellopontine infarct, HTN, DMII, and ___
transferred from ___ following an episode of dysarthria,
dysphagia, and gait disturbance.

Ms. ___ reports experiencing ___ dizziness and 
speech
disturbance on ___ during her trip to ___. She
initially presented to a local hosptal in ___, where she was
found to be hypertensive "to the 280s" and advised to remain in
the hospital for further evaluation; she instead took a train to
___ (during which time she also developed significant gait
disturbance), where she was ultimately diagnosed with a
cerebellopontine infarct c/b right hemiparesis, speech
disturbance, and gait disturbance. She has since completed a
course of rehabilitation, and was at her baseline until 14:00
today, when she developed dysarthria, dysphagia with liquids, 
and
worsening gait disturbance. She denies further focal weakness,
sensory disturbance, or headaches, but does note experiencing
nausea, stomach upset, and lightheadedness earlier in the day.
She did not, however, notice fevers or diarrhea. As a result of
her symptoms, she presented to ___, where she underwent
___ and was transferred to ___ for Neurology evaluation.

On review of systems, aside from the above, Ms. ___ denies
recent headache, vision change, diplopia, focal weakness,
paresthesiae, bowel or bladder incontinence, fevers, chills,
cough, dyspnea, chest discomfort, changes in bowel or bladder
habits, myalgias, arthralgias, or rash.
 
Past Medical History:
Recent cerebellopontine infarct (unclear if left temporal 
infarct
also noted with this presentation in ___
HTN
DMII
HLD

 
Social History:
Former ___ teacher, since retired, now ___ of early
childhood education at ___. Reports remote
tobacco use (few cigarettes/day for a few years in her ___,
denies alcohol or recreational drug use. Ambulates with cane and
leg brace.

- Modified Rankin Scale:
[] 0: No symptoms
[] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[x] 3: Moderate disability: requires some help but able to walk
unassisted
[] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead

 
Family History:
No family history of neurological disorders or thromboembolism,
though does note personal history of miscarriage.
 
Physical Exam:
Admission exam:
Vitals: T: 97.8  HR: 78  BP: 142/78  RR: 18  SpO2: 99% RA
General: NAD
HEENT: NCAT, no oropharyngeal lesions, neck supple
___: Warm, well-perfused
Pulmonary: No tachypnea or increased WOB
Abdomen: Soft, ND
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with intact verbal
comprehension and naming of both high- and low-frequency 
objects.
Slight dysarthria. No apparent hemineglect. Able to follow both
midline and appendicular commands.

- Cranial Nerves: PERRL (3 to 2 mm ___. VF full to number
counting. EOMI, no nystagmus. V1-V3 without deficits to light
touch bilaterally. L NLFF. Hearing intact to finger rub
bilaterally. Palate elevation symmetric. Trapezius strength ___
bilaterally. Tongue midline.

- Motor: Increased tone in RUE, slight drift; held in flexion at
rest.
  [Delt][Bic][Tri][ECR][FEx] [IP][Quad][Ham][TA]
L   4     4+   4+   4    2    5-   5     5   4+ 
R   5     5    5    5    5    5    5     5   5  
 
- Reflexes: ___ beats clonus at right ankle, +crossed adductors
and pectoral jerks.
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  3+    3+     3+      3+       2+
 R  3+    3+     3+      3+       2+  
 Plantar response extensor on right and equivocal on left. 

- Sensory: No deficits to light touch bilaterally.  No 
extinction
to DSS. Positive Romberg.

- Coordination: Mild dysmetria with FNF > HKS on right out of
proportion to weakness.

- Gait: Wide-based but reasonably steady with cane.

=====================================
Discharge exam:
General: NAD
HEENT: NCAT, no oropharyngeal lesions, neck supple
___: Warm, well-perfused
Pulmonary: No tachypnea or increased WOB
Abdomen: Soft, ND
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with intact verbal
comprehension and naming of both high- and low-frequency 
objects.
Slight dysarthria. No apparent hemineglect. Able to follow both
midline and appendicular commands.

- Cranial Nerves: PERRL (3 to 2 mm ___. VF full to number
counting. EOMI, no nystagmus. V1-V3 without deficits to light
touch bilaterally. L NLFF. Hearing intact to finger rub
bilaterally. Palate elevation symmetric. Trapezius strength ___
bilaterally. Tongue midline.

- Motor: Increased tone in RUE, slight drift; held in flexion at
rest.
  [Delt][Bic][Tri][ECR][FEx] [IP][Quad][Ham][TA]
L   4     4+   4+   4    2    5-   5     5   4+ 
R   5     5    5    5    5    5    5     5   5  
 
- Reflexes: ___ beats clonus at right ankle, +crossed adductors
and pectoral jerks.
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  3+    3+     3+      3+       2+
 R  3+    3+     3+      3+       2+  
 Plantar response extensor on right and equivocal on left. 

- Sensory: No deficits to light touch bilaterally.  No 
extinction
to DSS. Positive Romberg.

- Coordination: Mild dysmetria with FNF > HKS on right out of
proportion to weakness.

- Gait: Wide-based but reasonably steady with cane.

 
Pertinent Results:
CTH/CTA head and neck:PRELIM
Noncontrast head CT: 
1. No intracranial hemorrhage. 
2. Left pontine hypodensity is consistent with reported recent 
infarction. 
  
CTA head and neck: 
Patent intracranial and cervical vascular without aneurysm or 
dissection. 
  
MRI brain:
IMPRESSION: 
  
  
1. Mildly restricted diffusion involving left greater than right 
pons, 
differential considerations include subacute ischemia, central 
pontine 
myelinolysis, less likely inflammatory or infectious etiologies. 

2. Preserved basilar artery flow voids. 
3. No hemorrhage. 

 
Brief Hospital Course:
___ left-handed woman with history
notable for recent cerebellopontine infarct, HTN, DMII, and ___
transferred from ___ following an episode of dysarthria,
and gait disturbance.
MRI showed no acute stroke. Symptoms were likely due to 
recrudescence in setting of fatigue. 
No changes to her medications were made. She is on Atorvastatin 
80mg, ASA 81 ___s Plavix 75mg daily. 
LDL 75, A1c pending at time of discharge. She has home ___ 
in place. 

=============================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack 
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why: 
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.) 
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 71) - () No 
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) () Yes - () No [if LDL 
>70, reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
6. Smoking cessation counseling given? () Yes - () No [reason () 
non-smoker - () unable to participate] 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? () Yes - (x) No NO STROKE 
8. Assessment for rehabilitation or rehab services considered? 
() Yes - (x) No. If no, why not? (I.e. patient at baseline 
functional status)At functional baseline
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No 
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Ranitidine 300 mg PO DAILY 
2. alogliptin 25 mg oral daily 
3. MetFORMIN (Glucophage) 1000 mg PO BID 
4. Lisinopril 2.5 mg PO DAILY 
5. Clopidogrel 75 mg PO DAILY 
6. Aspirin 81 mg PO DAILY 
7. Atorvastatin 80 mg PO QPM 

 
Discharge Medications:
1.  alogliptin 25 mg oral daily  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Clopidogrel 75 mg PO DAILY  
5.  Lisinopril 2.5 mg PO DAILY  
6.  MetFORMIN (Glucophage) 1000 mg PO BID  
7.  Ranitidine 300 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Transient slurred speech

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___ were admitted to transient slurred speech. Your MRI did not 
show a new stroke. Your symptoms were likely due to fatigue. 
No changes in your medications were made. Please tale your 
medications as prescribed. 

Please follow up with your primary care physician as listed 
below.  
 If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
___  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 Sincerely,  
 Your ___ Neurology Team  
 
Followup Instructions:
___